US06987114B1
1-(Pyridin-3-ylmethyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 3-picolyl chloride were reacted by the same way with the example 1 to obtain the titled compound (120 mg, yield: 33.0%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 3-picolyl chloride | N1=CC(=CC=C1)CCl | C6H6ClN
product | 1-(Pyridin-3-ylmethyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 120 mg, yield: 33.0% | N1=CC(=CC=C1)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)CC)=O)=O | C21H21N3O3
